US07132419B2
3-Hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
To a solution of 3-methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (170 mg) in dry N,N-dimethylformamide (3 mL) was added sodium thioethoxide (380 mg). The reaction mixture was then heated to reflux under argon for 3 hours. The reaction mixture was cooled, acidified (dilute HCl) and volatiles removed in vacuo. The residue was purified using column chromatography (20% methanol in dichloromethane) to yield the title compound as a red solid (142 mg).

reactant | 3-methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 170 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC(=C4)OC)C | C22H22N4O2
reactant | sodium thioethoxide | 380 mg | [S-]CC.[Na+]
reactant | HCl | Cl | ClH
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-Hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 142 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC(=C4)O)C | C21H20N4O2
